US07863310B2
1 dimethylaminosulfonyl-2-amino-benzimidazole
To a solution of sodium hydroxide (1.8 g) in water (9 mL) add acetonitrile (44 mL). To this solution, add 2-aminobenzimidazole (3.0 g, 22.5 mmol) and dimethylsulfamoyl chloride (2.4 mL, 22.5 mmol). Stir the reaction mixture at room temperature, overnight. Then, cool the mixture at 0° C. and the product crystallized from solution. Filter the product and dry it in vacuum to provide 5.0 g (90% yield) of the title compound as a white solid. MS (ES+): m/z=241.1 (M+H)+

reactant | sodium hydroxide | 1.8 g | [OH-].[Na+]
reactant | acetonitrile | 44 mL | C(C)#N | C2H3N
reactant | 2-aminobenzimidazole | 22.5 mmol, 3.0 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | dimethylsulfamoyl chloride | 22.5 mmol, 2.4 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | water | 9 mL | O | H2O
product | dimethylaminosulfonyl-2-amino-benzimidazole | 5.0 g, 90% yield | CN(S(=O)(=O)C1=CC=CC=2N=C(NC21)N)C | C9H12N4O2S
